US07582714B2
Synthesis of 2-chlorodifluoromethyl-1,3-dioxolane
157 g (1.4 mole or less) of CClF2CH(OH)2, 197 g (1.5 mole) of 2-bromoethanol and 20 g of calcium chloride were placed in a 1 liter-sized flask with a condenser. The flask was heated at 90° C. for 7 hours and cooled to room temperature. The upper phase was transferred to a 5 liter-sized flask, and 2 liters of acetone and 386 g (2.8 moles) of potassium carbonate were added to the flask. The mixture was reacted at 50° C. for three days, and a solid was precipitated. The solvent was removed by distillation. The product was purified by distillation. The yield of the product was 88% (195 g) and has a boiling point of 62° C./30 mmHg.

reactant | CClF2CH(OH)2 | 1.4 mole or less, 157 g | C(Cl)(F)(F)C(O)O | C2H3ClF2O2
reactant | 2-bromoethanol | 1.5 mole, 197 g | BrCCO | C2H5BrO
reactant | calcium chloride | 20 g | [Cl-].[Ca+2].[Cl-]
reactant | potassium carbonate | 2.8 moles, 386 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 liters | CC(=O)C | C3H6O
product | 2-chlorodifluoromethyl-1,3-dioxolane | ClC1(OCCO1)C(F)F | C4H5ClF2O2
